US06914074B2
2-Methoxy-6-(4-methoxyphenyl)naphthalene
To a mixture of 2-bromo-6-methoxynaphthalene (23.79 g, 100.3 mmol) and tetrakis(triphenylphosphine)palladium (5.8 g, 5 mmol) was added a solution of 4-methoxyphenylmagnesium bromide in THF (400 mL of 0.5 N solution, 200 mmol). The stirred solution was heated to reflux for 3 hr, cooled to RT, and stirred into 200 mL of 1 N HCl. The mixture was extracted with dichloromethane and filtered through a short silica plug with dichloromethane. The solvent was removed to yield a crude yellow solid which was further purified by silica chromatography (20-50% ethyl acetate-hexanes) to yield 25.68 g (97%) of the title compound as a white solid: mp 190° C.; 1H NMR (CDCl3): δ 3.86 (3H, s), 3.93 (3H, s), 7.01 (2H, d, J=8.57 Hz), 7.14-7.18 (2H, m), 7.63 (2H, d, J=8.50 Hz), 7.67 (1H, dd, J=1.68 Hz, J=8.73 Hz), 7.76-7.80 (2H, m), 7.91 (1H, d, J=0.94 Hz); MS (ESI) m/z265 (M+H)+.

reactant | 2-bromo-6-methoxynaphthalene | 100.3 mmol, 23.79 g | BrC1=CC2=CC=C(C=C2C=C1)OC | C11H9BrO
reactant | 4-methoxyphenylmagnesium bromide | COC1=CC=C(C=C1)[Mg]Br
reactant | THF | 200 mmol, 0.5 N, 400 mL | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 5 mmol, 5.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | HCl | 1 N, 200 mL | Cl | ClH
product | 2-Methoxy-6-(4-methoxyphenyl)naphthalene | 25.68 g, 97% | COC1=CC2=CC=C(C=C2C=C1)C1=CC=C(C=C1)OC | C18H16O2
